datasets/10k_Mayr_OG.csv
SMILES Labelled
"C[C:11](=[CH2:10])[O:12][Si:63](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C[Si](C)(C)C12[C:31]3([CH2+:20])[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+]>>C[Si](C)(C)C12[C:31]3([CH2:20][CH2:10][C:11](C)=[O+:12][Si:63](C4=CC=CC=C4)(C4=CC=CC=C4)C4=CC=CC=C4)[Co-3:32]1(C#[O+])(C#[O+])(C#[O+])[Co-3:42]23(C#[O+])(C#[O+])C#[O+] 10,11=10,20;12=11,12"
"CC(C)(C1=C(I)C=CC=C1)[O:21][S:20]C(F)(F)F.CC[O:82][C:71]([CH-:10][S+:61](C)C)=[O:72]>>CC(C)(C1=C(I)C=CC=C1)[O-:21].CC[O:82][C:71]([CH:10]([S:20]C(F)(F)F)[S+:61](C)C)=[O:72] 10=20;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[N:65](C)[C:64]1=[CH:63][CH:62]=[N+:61](/[CH:10]=[C:11](/C2=CC=CC=C2)[O-:12])[CH:72]=[CH:73]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10]([C:11](C2=CC=CC=C2)=[O:12])[N+:61]2=[CH:62][CH:63]=[C:64]([N:65](C)C)[CH:73]=[CH:72]2)[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:62]/[C:11](=[CH:10]/[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])[O-:12].C[C:22](/[CH:21]=[CH:20]/[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)=[O:23]>>CC[O:62][C:11]([CH:10]([CH:20]([CH:21]=[C:22](C)[O-:23])[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[P:71](C1=CC=CC=C1)(C1=CC=CC=C1)=[O:72])=[O:12] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CO[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[O:10]=[C:11]1[CH:12]=[CH:13][C:14](=[N+:15]([O-:16])[O-:67])[CH:73]=[CH:72]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([O:10][C:11]2=[CH:12][CH:13]=[C:14]([N+:15](=[O:16])[O-:67])[CH:73]=[CH:72]2)([C:41]2=[CH:42][C:43](OC)=[CH:44][CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12,13=11,12;14,15=13,14;16=15,16"
"C1CN([C:34]2=[CH:33][CH:32]=[C:31]([CH+:20][C:41]3=[CH:42][CH:43]=[C:44](N4CCOCC4)[CH:45]=[CH:46]3)[CH:36]=[CH:35]2)CCO1.C1C[N:12]2CC[N:10]=[C:11]2[S:62]C1>>C1C[N+:12]2=[C:11]([N:10]([CH:20]([C:31]3=[CH:32][CH:33]=[C:34](N4CCOCC4)[CH:35]=[CH:36]3)[C:41]3=[CH:42][CH:43]=[C:44](N4CCOCC4)[CH:45]=[CH:46]3)CC2)[S:62]C1 10,11=10,20;12=11,12"
"C1=CC=C(/[C:11](=[CH:10]/[C:61](C2=CC=CC=C2)=[O:62])[O-:12])C=C1.[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH+:20][C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65>>[O+]#C[Cr-3:34]12345(C#[O+])(C#[O+])C6C1C2[C:33]3([C:32]#[C:31][CH:20]([CH:10]([C:11](C1=CC=CC=C1)=[O:12])[C:61](C1=CC=CC=C1)=[O:62])[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1)C4C65 10,11=10,20;12=11,12"
"CCCC[C-:10]([C:61](=[O:62])[O:112]CC)[C:71](=[O:72])[O:82]CC.CO[C:24](/[N:23]=[N:22]/[C:21](C)=[CH:20]/[C:31](=[O:32])[N:33](C)C)=[O:25]>>CCCC[C:10]([CH:20]([C:21](C)=[N:22][N:23]=[C:24](OC)[O-:25])[C:31](=[O:32])[N:33](C)C)([C:61](=[O:62])[O:112]CC)[C:71](=[O:72])[O:82]CC 10=20;20,21=21,22;22,23=23,24;24,25=25"
"Cl[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1.[O+]#C[Fe-3:63]123(C#[O+])(C#[O+])C4C[CH:10]=[CH:11][CH:62]1C2C43>>[O+]#C[Fe-3:63]123(C#[O+])(C#[O+])C4C[CH:10]([CH:20]([C:31]5=[CH:32][CH:33]=[C:34](Cl)[CH:35]=[CH:36]5)[CH:41]=[CH:42][C:53]5=[CH:54][CH:55]=[C:56](Cl)[CH:57]=[CH:58]5)[CH+:11][CH:62]1C2C43 10,11=10,20"
"CC[O:72][C:61]([C:10]1=[C:11]([O-:12])CCCC1)=[O:62].C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](N)=[O:25]>>CC[O:72][C:61]([C:10]1([CH:20]([C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])[C:31](=[O:32])[N:33](C)C)CCCC[C:11]1=[O:12])=[O:62] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C([C:42](=[CH:41][CH+:20][C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:53]2=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]2)C=C1.C[C:11]1=[CH:10]C2=C(C=CC=C2)[N:12]1C>>C[C:11]1=[N+:12](C)C2=C(C=CC=C2)[CH:10]1[CH:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[CH:41]=[C:42](C1=CC=CC=C1)[C:53]1=[CH:54][CH:55]=[CH:56][CH:57]=[CH:58]1 10,11=10,20;12=11,12"
"CC(C)(C)[O:94][C:83]([N:12]1[CH:11]=[CH:10][C:62]2=[C:61]1[CH:66]=[CH:65][CH:64]=[CH:63]2)=[O:84].CSC[C:20](C)=[O:21]>>CSC[C:20](C)([CH:10]1[CH:11]=[N+:12]([C:83](=[O:84])[O:94]C(C)(C)C)[C:61]2=[C:62]1[CH:63]=[CH:64][CH:65]=[CH:66]2)[O-:21] 10,11=10,20;12=11,12;20,21=21"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].[C:10](=[C:11]=[N-:12])([C:61]#[N:62])[C:73]1=[CH:74][CH:75]=[CH:76][CH:84]=[CH:85]1>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([C:10]([C:11]#[N:12])([C:61]#[N:62])[C:73]2=[CH:74][CH:75]=[CH:76][CH:84]=[CH:85]2)[C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
